US07414049B2
b) (S)-3-Amino-5-(2-benzyloxy-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the [(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with hydrochlorid acid (37%) in dioxane yielded the title compound as a light yellow foam; MS (m/e): 312 (M+H)+.

reactant | [(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N(C1)CCOCC1=CC=CC=C1)C=CC=C2)=O)=O | C23H29N3O4
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-5-(2-benzyloxy-ethyl)-1,3,4,5-tetrahydro-benzo[b][1,4]diazepin-2-one Hydrochloride | Cl.N[C@H]1CN(C2=C(NC1=O)C=CC=C2)CCOCC2=CC=CC=C2 | InChI=1S/C18H21N3O2.ClH/c19-15-12-21(10-11-23-13-14-6-2-1-3-7-14)17-9-5-4-8-16(17)20-18(15)22;/h1-9,15H,10-13,19H2,(H,20,22);1H/t15-;/m0./s1
